US06911464B2
(1R)-N-{2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-(N-formyl-N-hydroxy-amino)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide was prepared by the procedure of Example 7 from N-{2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide (1.6 g, 3.6 mmol) and 2,2,2-trifluoroethyl formate (5 g, 39 mmol) in THF (20 mL) to give a white solid (0.7 g, 41% yield): mp: 81-83° C. 1H NMR (DMSO-d6) δ 1.18 (d, J=7 Hz, 6H, 2CH3), 1.31 (t, J=7 Hz, 3H, CH3), 2.34-2.38 (m, 2H, CH2), 2.56-2.65 (m, 1H, CH), 3.39-3.51 (m, 2H, CH2), 3.73 (s, 3H, CH3), 3.96-4.05 (m, 2H, CH2), 4.16 (d, J=17 Hz, 1H, NCHH), 4.55 (d, J=17 Hz, 1H, NCHH), 5.25-5.29 (m, 1H, NCH), 6.93-6.97 (m, 3H, Ar), 7.18 (d, J=8 Hz, 1H, Ar), 7.50 (t, J=8 Hz, 1H, Ar), 7.83 (s, 0.5H, CH), 8.25 (s, 0.5H, CH), 8.28 (d, J=8 Hz, 1H, Ar), 9.63 (s, 0.5H, OH), 10.07 (s, 0.5H, OH), 10.47 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.69, 19.16, 19.21, 28.39, 28.60, 35.94, 43.35, 45.92, 46.26, 46.73, 51.17, 51.92, 55.44, 63.78, 111.97, 112.34, 116.55, 117.54, 117.58, 119.68, 131.54, 132.16, 151.12, 142.28, 147.94, 148.53, 157.36, 161.80, 168.37, 168.53, 174.93; Anal Calcd for C25H31N3O6+0.4 H2O: C, 62.98; H, 6.72; N, 8.81; H2O, 1.51. Found: C, 62.96; H, 6.80; N, 8.84; H2O, 1.48.

reactant | N-{2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide | 3.6 mmol, 1.6 g | C(C)OC=1C=C(C=CC1OC)C(CCNO)N1CC2=CC=CC(=C2C1=O)NC(C(C)C)=O | C24H31N3O5
reactant | 2,2,2-trifluoroethyl formate | 39 mmol, 5 g | C(=O)OCC(F)(F)F | C3H3F3O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1R)-N-{2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-(N-formyl-N-hydroxy-amino)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide | C(C)OC=1C=C(C=CC1OC)[C@@H](CCN(O)C=O)N1CC2=CC=CC(=C2C1=O)NC(C(C)C)=O | C25H31N3O6
